US06184225B2
A solution of sodium nitrite (220 mg, 3.18 mmol) in concentrated sulphuric acid (2 ml) was added over 15 minutes to a suspension of 4-amino-2,6-difluorobenzoic acid (550 mg, 3.18 mmol) in acetic acid (6 ml) at 15° C. The mixture was stirred at 15° C. for 1 hour then heated to 90° C. and poured into a solution of copper(I)chloride (800 mg) in concentrated hydrochloric acid (11 ml) at 95° C. The mixture was heated at 95° C. for 45 minutes and then allowed to cool. The mixture was diluted with water, extracted with ethyl acetate, the organic extracts dried (MgSO4) and the solvent removed by evaporation to give 4-chloro-2,6-difluorobenzoic acid (600 mg, 98%)

reactant | sodium nitrite | 3.18 mmol, 220 mg | N(=O)[O-].[Na+]
reactant | 4-amino-2,6-difluorobenzoic acid | 3.18 mmol, 550 mg | NC1=CC(=C(C(=O)O)C(=C1)F)F | C7H5F2NO2
reactant | hydrochloric acid | 11 ml | Cl | ClH
solvent | sulphuric acid | 2 ml | S(O)(O)(=O)=O | H2O4S
solvent | acetic acid | 6 ml | C(C)(=O)O | C2H4O2
solvent | water | O | H2O
catalyst | copper(I)chloride | 800 mg | [Cu]Cl
product | 4-chloro-2,6-difluorobenzoic acid | 600 mg, 98% | ClC1=CC(=C(C(=O)O)C(=C1)F)F | C7H3ClF2O2
